US09029544B2
2-(4-iodophenyl)-2-methylpropane-1,3-diol
3.1 g Diethyl 2-(4-iodophenyl)-2-methylmalonate are dissolved in 50 ml dichloromethane and cooled to −78° C. 50 ml of a 1 M solution of diisobutylaluminium hydride in dichloromethane are added dropwise and the mixture is warmed to −10° C. during 5 hours. Then 0.9 ml water and 0.9 ml of a 4 M solution of sodium hydroxide in water are added successively under cooling. The mixture is stirred vigorously for 10 minutes and is then partitioned between 600 ml ethylacetate and 500 ml of a 0.5 M hydrochloric acid. The organic phase is washed with brine and dried with magnesium sulphate. The solvents are evaporated in vacuo and the residue is chromatographed on silica gel (petrole ether/ethylacetate 40:60 to 0:100).

reactant | Diethyl 2-(4-iodophenyl)-2-methylmalonate | 3.1 g | IC1=CC=C(C=C1)C(C(=O)OCC)(C(=O)OCC)C | C14H17IO4
reactant | diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | water | 0.9 ml | O | H2O
product | 2-(4-iodophenyl)-2-methylpropane-1,3-diol | IC1=CC=C(C=C1)C(CO)(CO)C | C10H13IO2
